US09431145B2
(b) Synthesis of 4-chloro-N-(4-chlorophenyl)-2-methoxyaniline
A solution of palladium (II) acetate (949 mg, Precious Metals Online) and (+/−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (2.63 g, Alfa-Aesar) in toluene (1000 mL) was heated to 50° C. under argon then cooled to room temperature. 4-Chloro-2-methoxyaniline (66.6 g), 4-iodochlorobenzene (105.81 g, Apollo Scientific) and sodium tert-butoxide (44.68 g, Alfa-Aesar) were added and the mixture was heated to reflux for 90 minutes. The mixture was cooled to room temperature, quenched with water (500 mL) then the organics were separated, dried (MgSO4) and concentrated. The residue was absorbed onto silica and columned eluting ethyl acetate/heptane mixtures to give the product as a dark orange oil that solidified on standing. Yield: 97.86 g. 1H NMR (400 MHz, CDCl3): δ 7.18-7.23 (2H, m, ArH), 7.12 (1H, d, ArH), 7.00-7.05 (2H, m, ArH), 6.82-6.85 (2H, m, ArH), 6.00 (1H, br s, NH), 3.87 (3H, s, OMe).

reactant | (+/−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 2.63 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 4-Chloro-2-methoxyaniline | 66.6 g | ClC1=CC(=C(N)C=C1)OC | C7H8ClNO
reactant | 4-iodochlorobenzene | 105.81 g | IC1=CC=C(C=C1)Cl | C6H4ClI
reactant | sodium tert-butoxide | 44.68 g | CC(C)([O-])C.[Na+]
solvent | toluene | 1000 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 949 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-chloro-N-(4-chlorophenyl)-2-methoxyaniline | ClC1=CC(=C(NC2=CC=C(C=C2)Cl)C=C1)OC | C13H11Cl2NO
